US07375134B2
(L)-Norvalinol hydrochloride (5.25 g, 37.60 mmol) and trifluoroacetaldehyde methyl hemiacetal (5 mL, 37.6 mmol) were heated in benzene (100 mL) in the presence of triethylamine (5.26 mL, 37.6 mmol) at reflux, using a Dean-Stark apparatus to trap water. After 3 hours, the reaction mixture was cooled, diluted with ether (100 mL), filtered, and evaporated to dryness, giving (4S)-4-propyl-2-trifluoromethyloxazolidine, which was used without further purification.

reactant | (L)-Norvalinol hydrochloride | 37.60 mmol, 5.25 g | Cl.N[C@@H](CCC)CO
reactant | trifluoroacetaldehyde methyl hemiacetal | 37.6 mmol, 5 mL | COC(C(F)(F)F)O | C3H5F3O2
reactant | triethylamine | 37.6 mmol, 5.26 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | ether | 100 mL | CCOCC | C4H10O
product | (4S)-4-propyl-2-trifluoromethyloxazolidine | C(CC)[C@@H]1NC(OC1)C(F)(F)F | C7H12F3NO
